US08119806B2
Step E: (3R,3aR,6R,6aR)-4-nitrooxy-piperidine-1-carboxylic acid 6-(4-nitro-phenoxycarbonyloxy)-hexahydro-furo[3,2-b]furan-3-yl ester
To a solution of (3R,3aR,6R,6aR)-6-hydroxyhexahydrofuro[3,2-b]furan-3-yl 4-(nitrooxy)piperidine-1-carboxylate (0.47 g, 1.48 mmol) and Et3N (0.45 g, 4.44 mmol) in THF (25 mL) was added 4-Nitrophenyl chloroformate (0.30 g, 1.48 mmol) as solid. After stirring at rt over night, the mixture was concentrated. The residue was diluted with EtOAc and washed with NaH2PO4 5%. The organic layer was dried over Na2SO4 and concentrated. The residue was purified by flash chromatography (Biotage SP1; column SNAP 50; 60% EtOAc in n-hexane), affording the title product as a white solid. 1H-NMR (300 MHz, CDCl3); δ 8.33-8.29 (2H, m), 7.45-7.40 (2H, m), 5.22-5.07 (3H, m), 4.88-4.80 (1H, m), 4.79-4.71 (1H, m), 4.20-3.71 (6H, m), 3.60-3.30 (2H, m), 2.12-1.98 (2H, m), 1.88-1.73 (2H, m).

reactant | (3R,3aR,6R,6aR)-6-hydroxyhexahydrofuro[3,2-b]furan-3-yl 4-(nitrooxy)piperidine-1-carboxylate | 1.48 mmol, 0.47 g | [N+](=O)([O-])OC1CCN(CC1)C(=O)O[C@H]1[C@@H]2[C@H](OC1)[C@@H](CO2)O | C12H18N2O8
reactant | Et3N | 4.44 mmol, 0.45 g | CCN(CC)CC | C6H15N
reactant | 4-Nitrophenyl chloroformate | 1.48 mmol, 0.30 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | (3R,3aR,6R,6aR)-4-nitrooxy-piperidine-1-carboxylic acid 6-(4-nitro-phenoxycarbonyloxy)-hexahydro-furo[3,2-b]furan-3-yl ester | [N+](=O)([O-])C1=CC=C(OC(=O)O[C@@H]2CO[C@H]3[C@@H]2OC[C@H]3OC(=O)N3CCC(CC3)O[N+](=O)[O-])C=C1 | C19H21N3O12
